US07199127B2
65 mg (0.16 mmol) of (3aS,4R,6aR)-4-(2,6-dichloropurin-9-yl)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide from the aforementioned Experimental Example 10, 55 mg (0.20 mmol) of 3-iodobenzylamine hydrochloride, and 0.065 mL (0.46 mmol) of triethylamine were added to ethanol and stirred at ambient temperature for 3 days. The reaction mixture was distilled under reduced pressure to obtain a concentrate. The concentrate was purified by silica gel column chromatography using the eluant (hexane:ethyl acetate=1:1) to obtain 87 mg (yield: 90%) of (3aS,4R,6aR)-4-[2-chloro-6-(3-iodobenzylamino)purin-9-yl)]-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide as a white foam.

reactant | (3aS,4R,6aR)-4-(2,6-dichloropurin-9-yl)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide | 0.16 mmol, 65 mg | CNC(=O)[C@@]1(SC[C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC(=NC(=C1N=C2)Cl)Cl | C14H15Cl2N5O3S
reactant | 3-iodobenzylamine hydrochloride | 0.20 mmol, 55 mg | Cl.IC=1C=C(CN)C=CC1
reactant | triethylamine | 0.46 mmol, 0.065 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide | CNC(=O)C1SCC2OC(OC21)(C)C | C9H15NO3S
